US07183276B2
To a mixed solution of diethyl α-hydroxy-4-nitrobenzylphosphonate (1.42 g) and methanol (30 mL) was added 10% palladium-carbon (0.14 g) and the mixture was stirred at room temperature under an atmospheric hydrogen pressure for 3 hrs. Palladium-carbon was removed from the reaction mixture by filtration and the filtrate was concentrated to give diethyl 4-amino-α-hydroxybenzylphosphonate as a solid (1.02 g, yield 80%).

reactant | diethyl α-hydroxy-4-nitrobenzylphosphonate | 1.42 g | OC(C1=CC=C(C=C1)[N+](=O)[O-])P(OCC)(OCC)=O | C11H16NO6P
catalyst | palladium-carbon | 0.14 g | [C].[Pd]
solvent | methanol | 30 mL | CO | CH4O
product | diethyl 4-amino-α-hydroxybenzylphosphonate | 1.02 g, yield 80% | NC1=CC=C(C(O)P(OCC)(OCC)=O)C=C1 | C11H18NO4P
